US04921852
To a mixture of dimethylformamide (0.45 ml) and tetrahydrofuran (10 ml) was dropwise added phosphorus oxychloride (0.46 ml) at -5°~5° C., and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added a solution of (2S,4R)-2-(4-carboxythiazol-2-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.54 g) in tetrahydrofuran (20 ml) at -5°~5° C., followed by stirring at the same temperature for 30 minutes. The mixture was dropwise added to concentrated ammonia water (15 ml) at 0°-10° C. with stirring. The mixture was stirred at the same condition for 2 hours. Tetrahydrofuran was removed under reduced pressure to give a residue, which was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give (2S,4R)-2-(4-carbamoylthiazol-2-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.4 g).

reactant | dimethylformamide | 0.45 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.46 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (2S,4R)-2-(4-carboxythiazol-2-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.54 g | C(=O)(O)C=1N=C(SC1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H17N3O9S2
reactant | ammonia water | 15 ml | O.N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2S,4R)-2-(4-carbamoylthiazol-2-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.4 g | C(N)(=O)C=1N=C(SC1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H18N4O8S2
